US07351719B2
123) N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-3-(2,4-dichloro-phenyl)-propionamide
A solution of 0.271 g (1.236 mmol) of (3-(2,4-dichloro-phenyl)-propionic acid in 3.00 mL thionyl chloride was stirred for 2 hours at RT, evaporated down i. vac. and dissolved in 10 mL dichloromethane. This solution of the acid chloride was slowly added dropwise, while cooling with ice, to a solution of 0.300 (1.236 mmol) of 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine (intermediate product Z1b) and 0.32 mL (1.854 mmol) of ethyl-diisopropylamine in 10 mL dichloromethane and the mixture was stirred for 16 hours at RT. The reaction mixture was washed with sat. aqueous sodium bicarbonate solution, dried over magnesium sulphate and evaporated down i. vac. The residue was dissolved in EtOAc and purified by column chromatography (silica gel, EtOAc/MeOH/conc. aqueous ammonia 90:10:1).

reactant | 3-(2,4-dichloro-phenyl)-propionic acid | ClC1=C(C=CC(=C1)Cl)CCC(=O)O | C9H8Cl2O2
reactant | 3-chloro-4-(2-diethylamino-ethoxy)-phenylamine | ClC=1C=C(C=CC1OCCN(CC)CC)N | C12H19ClN2O
reactant | ethyl-diisopropylamine | 1.854 mmol, 0.32 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | thionyl chloride | 3.00 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[3-chloro-4-(2-diethylamino-ethoxy)-phenyl]-3-(2,4-dichloro-phenyl)-propionamide | ClC=1C=C(C=CC1OCCN(CC)CC)NC(CCC1=C(C=C(C=C1)Cl)Cl)=O | C21H25Cl3N2O2
